US06525042B1
1-[(6-Chloronaphthalen-2-yl]sulfonyl]-4-[(8-hydroxyquinolin-7-yl)carbonyl]piperazine hydrochloride
In a similar manner to Example 4 except for the use of 8-hydroxyquinoline-7-carboxylic acid and 1-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine hydrochloride as the raw materials, the reaction was conducted, whereby the title compound was obtained.

reactant | 8-hydroxyquinoline-7-carboxylic acid | OC=1C(=CC=C2C=CC=NC12)C(=O)O | C10H7NO3
reactant | 1-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine hydrochloride | Cl.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCNCC1
product | 1-[(6-Chloronaphthalen-2-yl]sulfonyl]-4-[(8-hydroxyquinolin-7-yl)carbonyl]piperazine hydrochloride | Cl.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCN(CC1)C(=O)C1=CC=C2C=CC=NC2=C1O | InChI=1S/C24H20ClN3O4S.ClH/c25-19-6-3-18-15-20(7-4-17(18)14-19)33(31,32)28-12-10-27(11-13-28)24(30)21-8-5-16-2-1-9-26-22(16)23(21)29;/h1-9,14-15,29H,10-13H2;1H
